US07582629B2
N-Ethyl-1-[4-(trifluoromethyl)phenyl]methanesulfonamide
[[4-(Trifluoromethyl)phenyl]methyl]sulfonyl chloride (0.60 g, 2.32 mmol) was added dropwise to a saturated solution of ethylamine in THF (10 mL). The mixture was stirred at room temperature for 1 h. It was evaporated and the residue was dissolved in DCM and the resulting mixture was washed with 5% HCl, dried and evaporated to give the title compound (0.49 g, 79%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.68 (d, 2H), 7.55 (d, 2H), 4.32 (s, 2H), 4.01 (bs, 1H), 3.08-3.14 (m, 2H), 1.19 (t, 3H); Mass Spectrum: M−H+ 265.

reactant | [[4-(Trifluoromethyl)phenyl]methyl]sulfonyl chloride | 2.32 mmol, 0.60 g | FC(C1=CC=C(C=C1)CS(=O)(=O)Cl)(F)F | C8H6ClF3O2S
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-Ethyl-1-[4-(trifluoromethyl)phenyl]methanesulfonamide | 0.49 g, 79% | C(C)NS(=O)(=O)CC1=CC=C(C=C1)C(F)(F)F | C10H12F3NO2S
